US06706709B2
3-[5-(2-dimethylamino-ethoxy)-1H-indol-2-ylmethylene]-5-phenyl-1,3-dihydro-indol-2-one
A mixture of 5-phenyl-2-oxindole (41 mg, 0.2 mmol), 5-(2-dimethylamino-ethoxy)-1H-indole-2-carbaldehyde (46 mg, 0.2 mmol) and piperidine (0.1 mL) in ethanol (1 mL) was heated at 100° C. for 2 hours. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give 58 mg (68%) of the title compound.

reactant | 5-phenyl-2-oxindole | 0.2 mmol, 41 mg | C1(=CC=CC=C1)C=1C=C2CC(NC2=CC1)=O | C14H11NO
reactant | 5-(2-dimethylamino-ethoxy)-1H-indole-2-carbaldehyde | 0.2 mmol, 46 mg | CN(CCOC=1C=C2C=C(NC2=CC1)C=O)C | C13H16N2O2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-[5-(2-dimethylamino-ethoxy)-1H-indol-2-ylmethylene]-5-phenyl-1,3-dihydro-indol-2-one | 58 mg, 68% | CN(CCOC=1C=C2C=C(NC2=CC1)C=C1C(NC2=CC=C(C=C12)C1=CC=CC=C1)=O)C | C27H25N3O2
